US04895956
Three (3) grams of 3-benzoyl-1-bromo-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole-7-carboxylic acid were dissolved in 200 ml of a 50% water/methanol mixed liquid, containing 0.7 g of sodium hydroxide incorporated with 1.5 g of magnesium oxide and 0.6 g of 5% palladium/carbon and then agitated to the extent that absorption of the hydrogen gas is stopped (about 4 hours). After the end of the reaction, the reaction mixture was filtered and washed several times with water and methanol. The filtrate was concentrated under a reduced pressure and washed twice with about 70 ml of ethyl acetate. The aqueous layer obtained was made weakly acidic with conc. hydrochloric acid to precipitate crystals which were then filtered off. The rough crystals obtained were water washed, air-dried and then recrystallized from ethanol to obtain 2.1 g of 3-benzoyl-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole-7-carboxylic acid.

reactant | 3-benzoyl-1-bromo-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole-7-carboxylic acid | C(C1=CC=CC=C1)(=O)C1=NC(=C2N1CCC2C(=O)O)Br | C14H11BrN2O3
reactant | sodium hydroxide | 0.7 g | [OH-].[Na+]
reactant | magnesium oxide | 1.5 g | [O-2].[Mg+2]
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | Cl | ClH
solvent | water methanol | O.CO
catalyst | palladium/carbon | 0.6 g | [Pd] | Pd
solvent | water | O | H2O
product | 3-benzoyl-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole-7-carboxylic acid | 2.1 g | C(C1=CC=CC=C1)(=O)C1=NC=C2N1CCC2C(=O)O | C14H12N2O3
